US05510345
Preparation of 2-(1-piperazinyl)-4,6-bis(pyrrolidino)pyrimidine
A mixture of 10.0 g (34.7 mmoles) of 2-chloro-2,6-bis(pyrrolidino)pyrimidine, 11.95 g (138.8 mmoles) of piperazine and 150 ml of N-ethylmorpholine is boiled under reflux under nitrogen for 25 hours, then the solvent and excess piperazine are distilled off under environmental pressure. After adding 100 ml of water to the residue, water is distilled off until the head temperature reaches 100° C. After cooling down, the residue is distributed between 200 ml of chloroform and 30 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 50 ml of water each, then dried and evaporated. The evaporation residue is purified by chromatography on a silica gel column. By using a 9:1 mixture of chloroform and methanol as eluent and recrystallizing the product from hexane, the title compound is obtained in a yield of 8.54 g (81.4%), m.p.: 152°-160° C.

reactant | 2-chloro-2,6-bis(pyrrolidino)pyrimidine | 34.7 mmoles, 10.0 g | ClC1(NC(=CC=N1)N1CCCC1)N1CCCC1 | C12H19ClN4
reactant | piperazine | 138.8 mmoles, 11.95 g | N1CCNCC1 | C4H10N2
reactant | N-ethylmorpholine | 150 ml | C(C)N1CCOCC1 | C6H13NO
product | 2-(1-piperazinyl)-4,6-bis(pyrrolidino)pyrimidine | N1(CCNCC1)C1=NC(=CC(=N1)N1CCCC1)N1CCCC1 | C16H26N6
